US05574173
Dissolved 2-[6,11 -dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-al (5.0 g, 18.0 mmol) in 20 mL of dry THF and 60 mL of dry MeOH. Added 3 A molecular sieves, methylamine hydrochloride (6.1 g, 89.8 mmol), and then sodium cyanoborohydride (1.13 g, 18.0 mmol). Stirred at room temperature for 23 hours. Evaporated reaction mixture. Added 80 mL of saturated NaHCO3 and 80 mL of dichloromethane. FIltered through celite. Separated layers. Extracted aqueous solution with dichloromethane. Dried combined organic extracts with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 5% MeOH--CH2Cl2. Combined appropriate fractions and evaporated to give 3.8 g (73% yield) of N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-amine. Dissolved free base in ethyl acetate, and added one equivalent of maleic acid dissolved in ethanol. Evaporated to give maleate salt as a glass.

reactant | 2-[6,11 -dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-al | 18.0 mmol, 5.0 g | C1=CC=CC=2OCC3=C(C(C21)C(C=O)CC=C)C=CC=C3 | C19H18O2
reactant | methylamine hydrochloride | 89.8 mmol, 6.1 g | Cl.CN
reactant | sodium cyanoborohydride | 18.0 mmol, 1.13 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 80 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 60 mL | CO | CH4O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-amine | 3.8 g, 73% yield | CNCC(CC=C)C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C20H23NO
